US06358992B1
To a solution of methyl 3-acetyl-1-(2-chlorobenzyl)-2-ethylindole-6-carboxylate (110 mg) in tetrahydrofuran, (5 ml) was added 1M solution of boron in tetrahydrofuran (0.6 ml) in one portion at 0° C. The mixture was stirred at 20° C. for 1 hour, then quenched with water and extracted with ethyl acetate. The organic chase was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed or silica gel eluting with a mixture of hexane and ethyl acetate (2:1) to give methyl 1-(2-chlorobenzyl)-2,3-diethylindole-6-carboxylate (42 mg) as colorless crystals.

reactant | methyl 3-acetyl-1-(2-chlorobenzyl)-2-ethylindole-6-carboxylate | 110 mg | C(C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC1=C(C=CC=C1)Cl)CC | C21H20ClNO3
reactant | boron | [B] | B
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.6 ml | O1CCCC1 | C4H8O
product | methyl 1-(2-chlorobenzyl)-2,3-diethylindole-6-carboxylate | 42 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)OC)CC)CC)C=CC=C1 | C21H22ClNO2
